US07655643B2
Benzyl [(1S)-4-[(tert-butoxycarbonyl)amino]-1-(2-hydroxyethyl) -butyl]carbamate
The filtrate of (3S)-3-{[(benzyloxy)carbonyl]amino}-6-[(tert -butoxycarbonyl) amino]hexanoyl methyl carbonate (Example Z1) is added dropwise to a suspension of 0.49 g (13.14 mmol) of sodium borohydride in 0.6 ml of water at 0° C. The mixture slowly warms to RT and is stirred overnight. The reaction solution is concentrated, and the residue is mixed with ethyl acetate and water. The organic phase is dried over magnesium sulfate, concentrated and dried under high vacuum. The crude product is reacted without further purification.

reactant | (3S)-3-{[(benzyloxy)carbonyl]amino}-6-[(tert -butoxycarbonyl) amino]hexanoyl methyl carbonate | C(OC(C[C@H](CCCNC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O)(OC)=O | C21H30N2O8
reactant | sodium borohydride | 13.14 mmol, 0.49 g | [BH4-].[Na+]
solvent | water | 0.6 ml | O | H2O
product | Benzyl [(1S)-4-[(tert-butoxycarbonyl)amino]-1-(2-hydroxyethyl) -butyl]carbamate | C(C)(C)(C)OC(=O)NCCC[C@@H](CCO)NC(OCC1=CC=CC=C1)=O | C19H30N2O5
